US09079866B2
5-(3-Fluoro-2′-methylbiphenyl-4-yl)pyrazin-2-amine
The title compound was prepared using analogous conditions to those described in Example 1 utilizing 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine and 2-bromotoluene. MS (ESI): mass calcd. for C17H14FN3, 279.12; m/z found, 280.1 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 8.59 (s, 1H), 8.12 (s, 1H), 7.95 (m, 1H), 7.28-7.12 (m, 6H), 4.66 (s, 2H), 2.32 (s, 3H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 2-bromotoluene | BrC1=C(C=CC=C1)C | C7H7Br
product | 5-(3-Fluoro-2′-methylbiphenyl-4-yl)pyrazin-2-amine | FC=1C=C(C=CC1C=1N=CC(=NC1)N)C1=C(C=CC=C1)C | C17H14FN3
